US05840653
1-(4-Bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)-5-(4,7-dihydro-1,3-dioxepin-2-yl)-1H-pyrazole4-carbonitrile
3.0 g (7.1 mmol) of 1-(4-bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)-5-(1,1-diethoxyethyl)-1H-pyrazole-4-carbonitrile are dissolved in 50 ml of toluene, and 6.3 g (71 mmol) of cis-2,3-butene-1,4-diol and a catalytic amount of p-toluenesulfonic acid are then added. The mixture is kept at the boil for half an hour under a water separator, and the cooled solution is washed with sodium chloride solution, dried with magnesium sulfate and concentrated. The residue is purified by column chromatography.

reactant | 1-(4-bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)-5-(1,1-diethoxyethyl)-1H-pyrazole-4-carbonitrile | 7.1 mmol, 3.0 g | BrC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C(C)(OCC)OCC)C#N | C15H18BrF2N5O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Bromo-5-difluoromethoxy-1-methyl-3-pyrazolyl)-5-(4,7-dihydro-1,3-dioxepin-2-yl)-1H-pyrazole4-carbonitrile | BrC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C1OCC=CCO1)C#N | C14H12BrF2N5O3
